US04410354
Embodiment XV--2-Ethyl-1,7,10-trioxaspiro[4.6]undecane-2-methanol
To a stirred solution of 3.22 g of 3-chloroperbenzoic acid dissolved in 20 ml of methylene chloride under nitrogen, was added dropwise 3.05 g of tetrahydro-6-(3-methylenepentyl)-1,4-dioxepin-6-ol while maintaining the temperature below 30° C. using a water bath. After six hours and 20 minutes, the reaction mixture was washed with a 25% solution of potassium carbonate and a saturated sodium chloride solution, dried and stripped to yield 2.10 g of the desired product as a dark brown liquid.

reactant | 3-chloroperbenzoic acid | 3.22 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | tetrahydro-6-(3-methylenepentyl)-1,4-dioxepin-6-ol | 3.05 g | C=C(CCC1(COCCOC1)O)CC | C11H20O3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Ethyl-1,7,10-trioxaspiro[4.6]undecane-2-methanol | 2.10 g | C(C)C1(OC2(CC1)COCCOC2)CO | C11H20O4
